2178-12-28 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - EGD done showing several small AVM's that were cauterized. No futher
   GI workup is indicated.  HCT drop likely in setting of INR elevation
   - Hct 22 in pm, got 2 units, post transfusion hct 25.9 this morning,
   INR 1.6
   - cards c/s for PPM - no indication given pt is asymptomatic and has
   some heart rate response
   - neuro/stroke - don't feel that this is a stroke, recommended MRI
   brain; MRA neck or carotid dopplers and EEG - ordered
   - got Lasix 20iv x1 after FFP and then 20mg iv x1 again after pRBC
   - PCP ([**First Name8 (NamePattern2) 4954**] [**Last Name (NamePattern1) 4955**]) contact about possibly d/cing coumadin given
   acute on chronic anemia and elevated INR's - she is concerned about him
   having a stroke, and would like to aim for lower INR (1.8-2.2) when
   coumadin is restarted
   - echo ordered (recommended by PCP in last note for eval of worsening
   [**Location (un) **] and elevated JVP)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2178-12-27**] 02:20 PM
   Midazolam (Versed) - [**2178-12-27**] 02:25 PM
   Pantoprazole (Protonix) - [**2178-12-27**] 07:37 PM
   Furosemide (Lasix) - [**2178-12-28**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-28**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 60 (35 - 60) bpm
   BP: 146/42(67) {128/35(60) - 187/65(81)} mmHg
   RR: 16 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,170 mL
                                                                     69 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                     60 mL
                                                                     69 mL
   Blood products:
                                                                  1,630 mL
   Total out:
                                                                  2,225 mL
                                                                    650 mL
   Urine:
                                                                  2,225 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -55 mL
                                                                   -581 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: Diminished conjunctival pallor
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: ibradycardiic, rregularly irregular, SEM at RUSB
   Peripheral Vascular: 2+ distal pulses bilaterally
   Respiratory / Chest: CTAB
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: no [**Location (un) **]
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, oriented to person,
   place, not time
   Labs / Radiology
   110 K/uL
   8.3 g/dL
   114 mg/dL
   1.6 mg/dL
   29 mEq/L
   4.5 mEq/L
   61 mg/dL
   108 mEq/L
   143 mEq/L
   25.9 %
   5.8 K/uL
        [image002.jpg]
                             [**2178-12-27**]  10:41 AM
                             [**2178-12-27**]  03:46 PM
                             [**2178-12-28**]  02:08 AM
   WBC
   5.0
   5.8
   Hct
   23.4
   22.5
   25.9
   Plt
   105
   110
   Cr
   1.6
   1.6
   TropT
   0.07
   Glucose
   122
   114
   Other labs: PT / PTT / INR:18.0/34.5/1.6, CK / CKMB /
   Troponin-T:49/3/0.07, ALT / AST:18/21, Alk Phos / T Bili:200/1.1,
   Albumin:3.2 g/dL, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 COAGULOPATHY
 H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
   [**Age over 90 382**]M with afib on coumadin, CHF, CAD, presents with lethargy at home,
   found to have melena and Hct 18.
   # Lower GI Bleed:  EGD showing several small AVM
s, no blood in the
   stomach, no active bleeding. Per GI, the AVMs were the likely source of
   the bleed in the setting of elevated INR.   Hct in admission 18 which
   bumped to 25 after 2 units. Yesterday afternoon dropped to 22 and
   patietn received 2 units and increased to 25 this morning which is not
   an appropriate bump.  Unclear where source of bleeding as patient is
   not having bowel movements.  Doubt hemolysis though could check.  Hct
   may be representative of counts hours prior as opposed to current
   count. INR reversed, 1.6 this morning
   - check pm hct, transfuse for <27
   - has two large bore PIVs
   - active T & S, transfuse to goal Hct ~27
   - continue home PPI
   - GI following, appreciate recs
   - per outpatient PCP, [**Name10 (NameIs) **] concern over stroke and would like him to
   continue on coumadin with lower INR goal of 1.8-2.2
 will be restarted
   as outpatient and will discuss timing of that with GI (generally need
   one month before restarting anticoagulation after GIB)
   # HTN: Continue holding antihypertensives until hct is stabilized
   # A fib: currently bradycardic but irregular; pt has been bradycardic
   to low 40s in afib on prior EKGs with similar RBBB morphology.
   - hold anticoagulation [**1-11**] bleeding
   - cardiology curbsided and did not feel there was an indication for PPM
   with asymptomatic bradycardia
   # BPH: continue finasteride, continue to  hold tamsulosin until hct
   stable
 likely later today
   # CAD: no signs active ischemia despite anemia. Transfuse as above.
   Hold ASA, nitrates, ACE-inhibitor until hemodynamic stability is
   proven, likely tonight or tomorrow. Continue statin.
   # Anemia: pt with history of iron deficiency, now with acute blood loss
   anemia, as above. Hold iron, as can interfere with colonoscopy prep.
   # CKD: At baseline creatinine of 1.7-2.2. Continue to monitor; avoid
   nephrotoxins.
   ICU Care
   Nutrition: soft diet, ADAT
   Glycemic Control:  well controlled
   Lines:
   18 Gauge - [**2178-12-27**] 06:04 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Daughter [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 7539**] [**Telephone/Fax (5) 7540**]:
   Code status: FULL
   Disposition: ICU pending hct stabilization
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Known lastname **] [**Last Name (Titles) 924**] his EGD that showed AVM
s in stomach that were likely
   sources of UGI bleed. He has responded well to transfusion thus far
   with correction in his INR too to 1.6. He has needed lasix with
   transfusion. Appreciate cardiology input regarding bradycardia.
   Exam notable for pallor (improved) Tm 99.5 BP of 157/47 HR of 56 RR of
   14 with sats of 98% on 2lpm. He has mild expiratory wheeze but  no
   peripheral edema. Labs notable for WBC of 5.8 K, HCT of 25.9 , K+ 4.5,
   Cr 1.6 CXR pending . EKG shows slow Afib with VR between 35-52.
   Agree with plan to follow serial Hct. If stable, advance PO intake and
   d/w with PCP regarding anticoagulation long term. For short term he
   will need to stay off coumadin. Would assess HR response with exertion
   under supervision. If there is symptomatic bradycardia, a pacemaker may
   be considered. MRI/ MRA will be ordered per neurology recs. He will
   also have his code status addressed.
   Remainder of plan as outlined above.
   Patient is stable
   Total time: 30
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**], MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 1015**]
   [**Location (un) 7530**], KS-B23
   [**Location (un) 223**], [**Numeric Identifier 4370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2178-12-28**] 12:04 PM ------

2178-12-29 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: GIB
   24 Hour Events:
   No new events
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-12-28**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-29**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 40 (39 - 56) bpm
   BP: 129/41(62) {119/30(57) - 167/55(90)} mmHg
   RR: 18 (12 - 19) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                  1,278 mL
                  PO:
                                                                  1,188 mL
                  TF:
   IVF:
                                                                     90 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                    200 mL
   Urine:
                                                                  2,175 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -897 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: no conjunctival pallor
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: bradycardiic, rregularly irregular, SEM at RUSB
   Peripheral Vascular: 2+ distal pulses bilaterally
   Respiratory / Chest: CTAB
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: no [**Location (un) **]
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, oriented to person,
   place, not time
   Labs / Radiology
   84 K/uL
   7.8 g/dL
   111 mg/dL
   1.4 mg/dL
   31 mEq/L
   4.1 mEq/L
   49 mg/dL
   103 mEq/L
   139 mEq/L
   25.3 %
   4.8 K/uL
        [image002.jpg]
                             [**2178-12-27**]  10:41 AM
                             [**2178-12-27**]  03:46 PM
                             [**2178-12-28**]  02:08 AM
                             [**2178-12-28**]  10:44 AM
                             [**2178-12-28**]  03:24 PM
                             [**2178-12-28**]  08:06 PM
                             [**2178-12-29**]  04:03 AM
   WBC
   5.0
   5.8
   4.8
   Hct
   23.4
   22.5
   25.9
   24.7
   25.8
   24.2
   25.3
   Plt
   105
   110
   84
   Cr
   1.6
   1.6
   1.4
   TropT
   0.07
   Glucose
   122
   114
   111
   Other labs: PT / PTT / INR:15.0/31.6/1.3, CK / CKMB /
   Troponin-T:49/3/0.07, ALT / AST:18/21, Alk Phos / T Bili:200/1.1,
   Albumin:3.2 g/dL, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 COAGULOPATHY
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
   [**Age over 90 382**]M with afib on coumadin, CHF, CAD, presents with lethargy at home,
   found to have melena and Hct 18.
   # Lower GI Bleed:  EGD showing several small AVM
s, no blood in the
   stomach, no active bleeding. Per GI, the AVMs were the likely source of
   the bleed in the setting of elevated INR.   Hct in admission 18 which
   bumped to 25 after 2 units. Yesterday afternoon dropped to 22 and
   patietn received 2 units and increased to 25 this morning which is not
   an appropriate bump.  Unclear where source of bleeding as patient is
   not having bowel movements.  Doubt hemolysis though could check.  Hct
   may be representative of counts hours prior as opposed to current
   count. INR reversed, 1.6 this morning
   - daily hct checks as hct now stable
   - has two large bore PIVs
   - continue home PPI
   - GI following, appreciate recs
   - per outpatient PCP, [**Name10 (NameIs) **] concern over stroke and would like him to
   continue on coumadin with lower INR goal of 1.8-2.2
 will be restarted
   as outpatient and will discuss timing of that with GI (generally need
   one month before restarting anticoagulation after GIB)
   # Hypoxia:  Desats to 87% off of his 2Lnc.  Likely represents VQ
   mismatch with atelectasis as it improved with deep breaths
   - incentive spirometry
   # HTN: Restart home med as hct is stabilized
   # A fib: currently bradycardic but irregular; pt has been bradycardic
   to low 40s in afib on prior EKGs with similar RBBB morphology.
   - hold anticoagulation [**1-11**] bleeding
   - cardiology curbsided and did not feel there was an indication for PPM
   with asymptomatic bradycardia
   # BPH: continue finasteride amd tamsulosin
   # CAD: no signs active ischemia despite anemia. Transfuse as above.
   - restarted ASA, nitrates, and ACE-inhibitor as hemdynamically stable
   - continue statin.
   # Anemia: pt with history of iron deficiency, now with acute blood loss
   anemia, as above.
   - restarted iron
   # CKD: Cr 1.4 this morning.  Baseline creatinine of 1.7-2.2. Continue
   to monitor; avoid nephrotoxins.
   - trend
   ICU Care
   Nutrition: Regular
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-12-27**] 06:04 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: Transfer to floor

2178-12-29 10:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 382**]M with afib on coumadin, CHF, CAD, presents with lethargy at home,
   found to have melena and Hct 18.
   24 Hour Events:
   No events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   finasteride, tamsulosin, Colace, Zocor, Protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-29**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.2
   HR: 38 (38 - 56) bpm
   BP: 151/41(69) {119/30(57) - 167/55(90)} mmHg
   RR: 13 (13 - 19) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                  1,278 mL
                                                                    250 mL
   PO:
                                                                  1,188 mL
                                                                    250 mL
   TF:
   IVF:
                                                                     90 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                    450 mL
   Urine:
                                                                  2,175 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -897 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   84 K/uL
   111 mg/dL
   1.4 mg/dL
   31 mEq/L
   4.1 mEq/L
   49 mg/dL
   103 mEq/L
   139 mEq/L
   25.3 %
   4.8 K/uL
        [image002.jpg]
                             [**2178-12-27**]  10:41 AM
                             [**2178-12-27**]  03:46 PM
                             [**2178-12-28**]  02:08 AM
                             [**2178-12-28**]  10:44 AM
                             [**2178-12-28**]  03:24 PM
                             [**2178-12-28**]  08:06 PM
                             [**2178-12-29**]  04:03 AM
   WBC
   5.0
   5.8
   4.8
   Hct
   23.4
   22.5
   25.9
   24.7
   25.8
   24.2
   25.3
   Plt
   105
   110
   84
   Cr
   1.6
   1.6
   1.4
   TropT
   0.07
   Glucose
   122
   114
   111
   Other labs: PT / PTT / INR:15.0/31.6/1.3, CK / CKMB /
   Troponin-T:49/3/0.07, ALT / AST:18/21, Alk Phos / T Bili:200/1.1,
   Albumin:3.2 g/dL, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
    LOWER GI BLEED- s/p EGD showing AVMs. Hct stable
   -transfuse to goal hct 27
   -cont PPI
   - per outpatient PCP, [**Name10 (NameIs) **] concern over stroke and would like him to
   continue on coumadin with lower INR goal of 1.8-2.2
 will be restarted
   as outpatient and will discuss timing of that with GI (generally need
   one month before restarting anticoagulation after GIB)
   HTN: resume antihypertensives
   AFIB- currently bradycardic but irregular; pt has been bradycardic to
   low 40s in afib on prior EKGs with similar RBBB morphology.
   - hold anticoagulation [**1-11**] bleeding
   - cardiology curbsided and did not feel there was an indication for PPM
   with asymptomatic bradycardia
   BPH: continue finasteride, continue to  hold tamsulosin until hct
   stable
 likely later today
   CAD: no signs active ischemia despite anemia. Transfuse as above.
   -resume ASA today
   -resume anti-HTNsives today
   -cont statin
   CKD- at baseline
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2178-12-27**] 06:04 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes